US04447425
Iodine (47 g) and potassium iodate (18 g) were added to a solution of 3-methyl-5α-androst-2-en-17-one (100 g) in glacial acetic acid (3 l) and the mixture was stirred at 60° C. for 1.5 h. The mixture was cooled to room temperature, water (2.5 l) was added and the product was extracted into diethyl ether. The extract was washed with potassium bicarbonate solution (1 l), sodium sulphite solution (500 ml) and finally with water (3×1 l) to neutrality. The organic layer was dried (MgSO4) and concentrated to yield 2β-acetyloxy-3α-iodo-3β-methyl-5α-androstan-17-one as a colourless solid (94.03 g).

reactant | Iodine | 47 g | II | I2
reactant | potassium iodate | 18 g | I(=O)(=O)[O-].[K+]
reactant | 3-methyl-5α-androst-2-en-17-one | 100 g | CC=1C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C20H30O
reactant | water | 2.5 l | O | H2O
reactant | acetic acid | 3 l | C(C)(=O)O | C2H4O2
product | 2β-acetyloxy-3α-iodo-3β-methyl-5α-androstan-17-one | 94.03 g | C(C)(=O)O[C@@H]1[C@@](C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C1)C)=O)(C)I | C22H33IO3
